US05298660
21.13 g (0.1 mole) of (R)-(-)-α-phenyl-β-p-tolylethylamine (optical purity: 100%) and 12.82 g (0.105 mole) of p-hydroxybenzaldehyde were dissolved in 750 ml of ethyl alcohol. The reaction solution thus obtained was stirred at room temperature for 3 hours, and then stirred under reflux for 1 hour. Thereafter, the reaction solution was admixed at room temperature with 1.89 g (0.05 mole) of sodium borohydride, stirred for 3 hours, and then stirred under reflux for 1 hour. The reaction mixture was admixed with 75 ml of a 10% hydrochloric acid, and then concentrated under reduced pressure to give a crude (R)-(+)-N-p-hydroxybenzyl-α-phenyl-β-p-tolylethylamine·HCl salt, which was thereafter neutralized with an aqueous sodium hydroxide solution. The resultant solution was concentrated under reduced pressure to obtain the crystals, which were then recrystallized from ethyl alcohol, so that 20.47 g of (R)-(+)-N-p-hydroxybenzyl-α-phenyl-β-p-tolylethylamine were obtained as colorless crystals. Yield: 64.5%.

reactant | (R)-(-)-α-phenyl-β-p-tolylethylamine | 0.1 mole, 21.13 g | C1(=CC=CC=C1)[C@@H](CC1=CC=C(C=C1)C)N | C15H17N
reactant | p-hydroxybenzaldehyde | 0.105 mole, 12.82 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | sodium borohydride | 0.05 mole, 1.89 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl alcohol | 750 ml | C(C)O | C2H6O
product | (R)-(+)-N-p-hydroxybenzyl-α-phenyl-β-p-tolylethylamine·HCl | Yield: 64.5% | OC1=CC=C(CN[C@H](CC2=CC=C(C=C2)C)C2=CC=CC=C2)C=C1.Cl | InChI=1S/C22H23NO.ClH/c1-17-7-9-18(10-8-17)15-22(20-5-3-2-4-6-20)23-16-19-11-13-21(24)14-12-19;/h2-14,22-24H,15-16H2,1H3;1H/t22-;/m1./s1
